US07317014B2
Synthesis of N′-[6-(4-methylphenyl)-5-phenyl-2-(trifluoromethyl)pyrimidin-4-yl]acetohydrazide
To a solution of 4-hydrazino-6-(4-methylphenyl)-5-phenyl-2-(trifluoromethyl)pyrimidine (0.23 g, 0.66 mmol) (synthesized according to the procedure described in example 22) in dichloromethane (5 ml) and pyridine (0.06 g, 0.8 mmol), acetyl chloride (0.6 g, 0.7 mmol) was added dropwise at room temperature over a period of ten minutes under stirring. Stirring was continued for two hours and the resultant reaction mass was poured onto ice-water mixture and neutralised with hydrochloric acid. The reaction mixture was extracted with dichloromethane. The organic extract was washed with water, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford the title compound (0.2 g, 77.9%, HPLC purity 99.4%), mp: 147-152° C.

reactant | 4-hydrazino-6-(4-methylphenyl)-5-phenyl-2-(trifluoromethyl)pyrimidine | 0.66 mmol, 0.23 g | N(N)C1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=C(C=C1)C)C(F)(F)F | C18H15F3N4
reactant | pyridine | 0.8 mmol, 0.06 g | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.7 mmol, 0.6 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N′-[6-(4-methylphenyl)-5-phenyl-2-(trifluoromethyl)pyrimidin-4-yl]acetohydrazide | 0.2 g, 77.9% | CC1=CC=C(C=C1)C1=C(C(=NC(=N1)C(F)(F)F)NNC(C)=O)C1=CC=CC=C1 | C20H17F3N4O
